US09029399B2
Preparation of Intermediate 4-cyclopropyl-3-iodopyridine (I-30a)
Isoamyl nitrite (2.62 gm, 22.38 mmol) was added to the stirred solution of 4-cyclopropylpyridin-3-amine (1.0 g, 7.46 mmol) in dry THF (15 mL) under argon atmosphere. This was followed by the addition of diiodomethane (3.0 mL, 22.38 mmol) and copper iodide (1.42 g, 7.46 mmol). The resulting mixture was refluxed at 80° C. for 1 hour. The reaction mixture was cooled, filtered and the filtrate was partitioned between ethyl acetate and water. The organic layer was concentrated to yield the crude product. Purification by column chromatography on silica gel (15% ethyl acetate in hexane) afforded 600 mg of the product (34% yield).

reactant | Isoamyl nitrite | 22.38 mmol, 2.62 gm | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-cyclopropylpyridin-3-amine | 7.46 mmol, 1.0 g | C1(CC1)C1=C(C=NC=C1)N | C8H10N2
reactant | diiodomethane | 22.38 mmol, 3.0 mL | ICI | CH2I2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 7.46 mmol, 1.42 g | [Cu](I)I
product | 4-cyclopropyl-3-iodopyridine | 600 mg, 34% yield | C1(CC1)C1=C(C=NC=C1)I | C8H8IN
